US07011838B2
Using 1.00 g of (3,4-difluorobenzyl)malononitrile, 10 ml of N,N-di-methylformamide, 0.20 g of sodium hydride (60% in oil), and 1.38 g of 1-bromo-3,3,3-trifluoropropane, and according to the process described in the Production Example 1, there was obtained 0.32 g of 2-(3,4-difluorobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (19)).

reactant | (3,4-difluorobenzyl)malononitrile | 1.00 g | FC=1C=C(CC(C#N)C#N)C=CC1F | C10H6F2N2
reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | 1-bromo-3,3,3-trifluoropropane | 1.38 g | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-di-methylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-difluorobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.32 g, Yield: 21% | FC=1C=C(CC(C#N)(C#N)CCC(F)(F)F)C=CC1F | C13H9F5N2
